* ELDO netlist generated with ICnet by 'vlsi' on Sat Oct 28 2017 at 02:36:02

.CONNECT GND 0
.SUBCKT dhallsipolay vdd gnd out3 out2 out1 clk n_clk_esc1 d
*
* Globals.
*
.global VDD GND

*
* MAIN CELL: Component pathname : /home/vlsi/g4/dhall_sipo
*
        MN10 OUT1 N$330 GND GND n L=0.18u W=0.36u
        MP9 N$333 OUT1 VDD VDD p L=0.18u W=1.26u
        MN9 N$333 OUT1 GND GND n L=0.18u W=0.36u
        MP8 N$333 CLK N$330 VDD p L=0.18u W=1.26u
        MN8 N$333 N_CLK_ESC1 N$330 GND n L=0.18u W=0.36u
        MP7 N$326 N_CLK_ESC1 N$330 VDD p L=0.18u W=1.26u
        MN7 N$326 CLK N$330 GND n L=0.18u W=0.36u
        MP6 N$326 N$321 VDD VDD p L=0.18u W=1.26u
        MN6 N$326 N$321 GND GND n L=0.18u W=0.36u
        MP5 N$321 N$316 VDD VDD p L=0.18u W=1.26u
        MN5 N$321 N$316 GND GND n L=0.18u W=0.36u
        MP4 N$319 N$321 VDD VDD p L=0.18u W=1.26u
        MN4 N$319 N$321 GND GND n L=0.18u W=0.36u
        MP3 N$319 N_CLK_ESC1 N$316 VDD p L=0.18u W=1.26u
        MN3 N$319 CLK N$316 GND n L=0.18u W=0.36u
        MP2 N$311 CLK N$316 VDD p L=0.18u W=1.26u
        MN2 N$311 N_CLK_ESC1 N$316 GND n L=0.18u W=0.36u
        MP1 N$311 D VDD VDD p L=0.18u W=1.26u
        MN1 N$311 D GND GND n L=0.18u W=0.36u
        MP24 N$377 N$379 VDD VDD p L=0.18u W=1.26u
        MN24 N$377 N$379 GND GND n L=0.18u W=0.36u
        MP23 N$377 N_CLK_ESC1 N$374 VDD p L=0.18u W=1.26u
        MN23 N$377 CLK N$374 GND n L=0.18u W=0.36u
        MP22 N$369 CLK N$374 VDD p L=0.18u W=1.26u
        MN22 N$369 N_CLK_ESC1 N$374 GND n L=0.18u W=0.36u
        MP21 N$369 OUT2 VDD VDD p L=0.18u W=1.26u
        MN21 N$369 OUT2 GND GND n L=0.18u W=0.36u
        MP20 OUT2 N$359 VDD VDD p L=0.18u W=1.26u
        MN20 OUT2 N$359 GND GND n L=0.18u W=0.36u
        MP19 N$362 OUT2 VDD VDD p L=0.18u W=1.26u
        MN19 N$362 OUT2 GND GND n L=0.18u W=0.36u
        MP18 N$362 CLK N$359 VDD p L=0.18u W=1.26u
        MN18 N$362 N_CLK_ESC1 N$359 GND n L=0.18u W=0.36u
        MP17 N$355 N_CLK_ESC1 N$359 VDD p L=0.18u W=1.26u
        MN17 N$355 CLK N$359 GND n L=0.18u W=0.36u
        MP30 OUT3 N$388 VDD VDD p L=0.18u W=1.26u
        MN30 OUT3 N$388 GND GND n L=0.18u W=0.36u
        MP29 N$391 OUT3 VDD VDD p L=0.18u W=1.26u
        MN29 N$391 OUT3 GND GND n L=0.18u W=0.36u
        MP28 N$391 CLK N$388 VDD p L=0.18u W=1.26u
        MN28 N$391 N_CLK_ESC1 N$388 GND n L=0.18u W=0.36u
        MP27 N$384 N_CLK_ESC1 N$388 VDD p L=0.18u W=1.26u
        MN27 N$384 CLK N$388 GND n L=0.18u W=0.36u
        MP26 N$384 N$379 VDD VDD p L=0.18u W=1.26u
        MN26 N$384 N$379 GND GND n L=0.18u W=0.36u
        MP25 N$379 N$374 VDD VDD p L=0.18u W=1.26u
        MN25 N$379 N$374 GND GND n L=0.18u W=0.36u
        MP16 N$355 N$350 VDD VDD p L=0.18u W=1.26u
        MN16 N$355 N$350 GND GND n L=0.18u W=0.36u
        MP15 N$350 N$345 VDD VDD p L=0.18u W=1.26u
        MN15 N$350 N$345 GND GND n L=0.18u W=0.36u
        MP14 N$348 N$350 VDD VDD p L=0.18u W=1.26u
        MN14 N$348 N$350 GND GND n L=0.18u W=0.36u
        MP13 N$348 N_CLK_ESC1 N$345 VDD p L=0.18u W=1.26u
        MN13 N$348 CLK N$345 GND n L=0.18u W=0.36u
        MP12 N$340 CLK N$345 VDD p L=0.18u W=1.26u
        MN12 N$340 N_CLK_ESC1 N$345 GND n L=0.18u W=0.36u
        MP11 N$340 OUT1 VDD VDD p L=0.18u W=1.26u
        MN11 N$340 OUT1 GND GND n L=0.18u W=0.36u
        MP10 OUT1 N$330 VDD VDD p L=0.18u W=1.26u
*
.ends

