* ELDO netlist generated with ICnet by 'vlsi' on Mon Oct 30 2017 at 20:26:58

.CONNECT GND 0

*
* MAIN CELL: Component pathname : /home/vlsi/g4/fadd
*
.subckt fuladdlay in1 in2 cin s cout vdd gnd
        MN7 N$20 CIN N$22 gnd n L=1.8e-07 W=3.6e-07
        MN14 N$29 N$25 GND gnd n L=1.8e-07 W=3.6e-07
        MN13 N$29 N$7 GND gnd n L=1.8e-07 W=3.6e-07
        MP14 N$31 N$7 VDD VDD p L=1.8e-07 W=1.26e-06
        MP13 N$29 N$25 N$31 VDD p L=1.8e-07 W=1.26e-06
        MN12 S N$27 N$68 gnd n L=1.8e-07 W=3.6e-07
        MP12 S CIN N$68 VDD p L=1.8e-07 W=1.26e-06
        MN11 N$27 CIN GND gnd n L=1.8e-07 W=3.6e-07
        MP11 N$27 CIN VDD VDD p L=1.8e-07 W=1.26e-06
        MN10 S N$68 N$27 gnd n L=1.8e-07 W=3.6e-07
        MP10 S N$68 CIN VDD p L=1.8e-07 W=1.26e-06
        MP3 N$7 N$2 VDD VDD p L=1.8e-07 W=1.26e-06
        MP9 N$25 N$20 VDD VDD p L=1.8e-07 W=1.26e-06
        MN9 N$25 N$20 GND gnd n L=1.8e-07 W=3.6e-07
        MP8 N$20 CIN VDD VDD p L=1.8e-07 W=1.26e-06
        MP7 N$20 N$68 VDD VDD p L=1.8e-07 W=1.26e-06
        MN15 COUT N$29 GND gnd n L=1.8e-07 W=3.6e-07
        MN6 N$68 N$9 IN2 gnd n L=1.8e-07 W=3.6e-07
        MP6 N$68 IN1 IN2 VDD p L=1.8e-07 W=1.26e-06
        MN5 N$9 IN1 GND gnd n L=1.8e-07 W=3.6e-07
        MP5 N$9 IN1 VDD VDD p L=1.8e-07 W=1.26e-06
        MN4 N$68 IN2 N$9 gnd n L=1.8e-07 W=3.6e-07
        MP4 N$68 IN2 IN1 VDD p L=1.8e-07 W=1.26e-06
        MN8 N$22 N$68 GND gnd n L=1.8e-07 W=3.6e-07
        MN3 N$7 N$2 GND gnd n L=1.8e-07 W=3.6e-07
        MP2 N$2 IN2 VDD VDD p L=1.8e-07 W=1.26e-06
        MP1 N$2 IN1 VDD VDD p L=1.8e-07 W=1.26e-06
        MN2 N$4 IN2 GND gnd n L=1.8e-07 W=3.6e-07
        MN1 N$2 IN1 N$4 gnd n L=1.8e-07 W=3.6e-07
        MP15 COUT N$29 VDD VDD p L=1.8e-07 W=1.26e-06
*
.ends

